US04921962
4-Benzoyloxy-1-cumyloxy-2,2,6,6-tetramethylpiperidine
A mixture of 10.1 g (38.6 mmol) of 4-benzoyloxy-2,2,6,6-tetramethylpiperidine, 15.6 g (155 mmol) of 90% aqueous tert-butyl hydroperoxide, 600 mg of molybdenum trioxide and 60 ml of cumene is heated at 95° C. for two hours. The catalyst is removed by filtration and the filtrate is then evaporated at reduced pressure. The residual red oil is chromatographed on silica gel to afford 5.8 g (38% yield) of a white powder, m.p. 105°-108° C.

reactant | 4-benzoyloxy-2,2,6,6-tetramethylpiperidine | 38.6 mmol, 10.1 g | C(C1=CC=CC=C1)(=O)OC1CC(NC(C1)(C)C)(C)C | C16H23NO2
reactant | tert-butyl hydroperoxide | 155 mmol, 15.6 g | C(C)(C)(C)OO | C4H10O2
catalyst | molybdenum trioxide | 600 mg | [Mo](=O)(=O)=O
solvent | cumene | 60 ml | C1(=CC=CC=C1)C(C)C | C9H12
product | 4-Benzoyloxy-1-cumyloxy-2,2,6,6-tetramethylpiperidine | 5.8 g, 38% yield | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OC(C)(C)C1=CC=CC=C1)(C)C | C25H33NO3
